US04783467
Ethyl N-trifluoroacetyl-N-(5-fluoro-2-nitrobenzyl)-glycinate
Trifluoroacetic anhydride (3.0 cm3) was added dropwise to a stirred solution of ethyl N-(3-fluoro-6-nitrobenzyl)glycinate (5.10 g) and triethylamine (3.0 cm3) in dichloromethane (40 cm3) at -70° under nitrogen. The mixture was warmed to room temperature and partitioned between dichloromethane (60 cm3) and 10% sodium carbonate solution (50 cm3). The organic phase was dried (MgSO4), evaporated in vacuo, and the oily residue was chromatographed on silica (Merck "MK 60.9385" [Trade mark]) eluting with ethyl acetate:hexane, 1:9. Combination and evaporation of the appropriate fractions gave an oil (6.27 g) which crystallised on standing for several days to afford the title compound, m.p. 60°-63°.

reactant | Trifluoroacetic anhydride | 3.0 cm3 | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | ethyl N-(3-fluoro-6-nitrobenzyl)glycinate | 5.10 g | FC=1C=C(CNCC(=O)OCC)C(=CC1)[N+](=O)[O-] | C11H13FN2O4
reactant | triethylamine | 3.0 cm3 | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 cm3 | ClCCl | CH2Cl2
product | Ethyl N-trifluoroacetyl-N-(5-fluoro-2-nitrobenzyl)-glycinate | 6.27 g | FC(C(=O)N(CC(=O)OCC)CC1=C(C=CC(=C1)F)[N+](=O)[O-])(F)F | C13H12F4N2O5
